US07642264B2
2-Chloro-4-(4-chloro-phenyl)-pyrimidine
A mixture of 2,4-dichloropyrimidine (3.1 g, 20 mmol), 4-chlorophenylboronic acid (3.0 g, 20 mmol), and tetrakis(triphenylphosphine)palladium (0.69 g, 0.6 mmol) in dimethoxyethane (200 mL)/sat. Na2CO3 solution (34 mL) was heated to 80° C. for 20 h. The cooled mixture was poured into ice-water and the product was extracted with ethyl acetate. The organic layer was washed with brine, dried and evaporated. The crude product was purified by chromatography on silica gel using ethyl acetate/cyclohexane (1:2, v/v) as eluent to give the title compound (1.82 g, 40%) as white solid. NMR (DMSO-d6) δ 7.67 (d, 2H, J=7 Hz), 8.19 (d, 2H, J=5 Hz), 8.23 (d, 2H, J=7 Hz), 8.86 (d, 2H, J=5 Hz) ppm; mp 290-292° C.

reactant | 2,4-dichloropyrimidine | 20 mmol, 3.1 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-chlorophenylboronic acid | 20 mmol, 3.0 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 34 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 200 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 0.69 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-(4-chloro-phenyl)-pyrimidine | 1.82 g, 40% | ClC1=NC=CC(=N1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
